US07576215B2
3-BENZYL-4-(3-{[5-CHLORO-2-(TRIFLUOROMETHYL)BENZYL]OXY}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE
The title compound was prepared from 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol and 5-chloro-2-trifluoromethylbenzyl bromide as in the procedure of Example 43. MS (ESI) m/z 572.

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | 5-chloro-2-trifluoromethylbenzyl bromide | ClC=1C=CC(=C(CBr)C1)C(F)(F)F | C8H5BrClF3
product | 3-BENZYL-4-(3-{[5-CHLORO-2-(TRIFLUOROMETHYL)BENZYL]OXY}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1=C(C=CC(=C1)Cl)C(F)(F)F)C(F)(F)F | C31H20ClF6NO
